US04604397
To a well stirred solution of 1.16 g of 9-methoxy-4-methyl-2,3,4a,5-tetrahydro-4H-[1]-benzopyrano[3,4-b]pyridine in 15 ml of tetrahydrofuran is added 3.4 ml of 1.5M butyllithium in hexane at 0°. After 5 minutes at 0°, the reaction mixture is cooled to -70° and 0.6 ml of t-butyl isocyanate is added. After warming to room temperature the reaction mixture is diluted with water and the products extracted with ether. After drying over magnesium sulfate, the solvent is removed in vacuo and the residue is crystallized from ether/hexane to yield cis-2-(N-t-butylcarbamoyl)-9-methoxy-4-methyl-2,3,4a,5-tetrahydro-4H-[1]-benzopyrano[3,4-b]pyridine, which is converted with ethanolic hydrogen chloride to cis-2-(N-t-butylcarbamoyl)-9-methoxy-4-methyl-2,3,4a,5-tetrahydro-4H-[1]-benzopyrano[3,4-b]pyridine hydrochloride, m.p. 188°-189° (from ethanol/ether).

reactant | 9-methoxy-4-methyl-2,3,4a,5-tetrahydro-4H-[1]-benzopyrano[3,4-b]pyridine | 1.16 g | COC=1C=CC2=C(C1)C=1C(N(CCC1)C)CO2 | C14H17NO2
reactant | butyllithium | 1.5M, 3.4 ml | C(CCC)[Li]
reactant | t-butyl isocyanate | 0.6 ml | C(C)(C)(C)N=C=O | C5H9NO
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
solvent | water | O | H2O
product | cis-2-(N-t-butylcarbamoyl)-9-methoxy-4-methyl-2,3,4a,5-tetrahydro-4H-[1]-benzopyrano[3,4-b]pyridine | C(C)(C)(C)NC(=O)[C@@H]1C=C2[C@H](N(C1)C)COC1=C2C=C(C=C1)OC | C19H26N2O3
